US07635715B2
Step C: Preparation of Ethyl 6-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate
Concentrated H2SO4 (9.5 mL, 18.0M) was treated with P2O5 (4.25 g, 29.9 mmol). The resulting slurry was stirred at room temperature for 2 hours. The mixture was cooled in an ice bath and treated with a solution of diethyl 2-(4-(4-chlorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate (1.70 g, 4.44 mmol) in IPAc (3.0 mL). The resulting green solution was aged for 15 minutes and subsequently poured into ice water. The resulting mixture was extracted with IPAc (3×20 mL), and the combined organic extracts were dried (MgSO4). The organic solution was concentrated in vacuo to furnish a brown solid. The crude product was recrystallized from hot heptane to give the title compound as a pale yellow solid (0.81 g). MS m/e=337.2 (M+H)+.

reactant | H2SO4 | 18.0M, 9.5 mL | OS(=O)(=O)O | H2O4S
reactant | P2O5 | 29.9 mmol, 4.25 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | diethyl 2-(4-(4-chlorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate | 4.44 mmol, 1.70 g | ClC1=CC=C(C=C1)C1(CCOCC1)C(=O)C(C(=O)OCC)C(=O)OCC | C19H23ClO6
product | Ethyl 6-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 0.81 g | ClC=1C=C2C(=C(C(C3(CCOCC3)C2=CC1)=O)C(=O)OCC)O | C17H17ClO5
